US05134111
(b) Preparation of 7-ethyl-1-methoxymethoxynaphthalene
270 g of 8-(1-hydroxyethyl)-1-naphthol was dissolved in 500 ml of tetrahydrofuran and 170 ml of pyridine, followed by dropping 357 g of anhydrous trifluoroacetic acid under ice-cooling conditions in 45 minutes. The reaction solution was agitated under ice-cooling conditions for 0.5 hours, after which 2 liters of ethyl acetate was added. After washing with a saturated saline solution, 1N hydrochloric acid, a saturated saline solution and a sodium hydrogencarbonate saturated aqueous solution in this order, the reaction solution was dried with anhydrous magnesium sulfate. Insoluble matters were removed by filtration and 3.75 liters of tetrahydrofuran was added to the resultant filtrate. 3.75 g of 10% palladium-carbon (water content:50%) was further added, followed by violent agitation in an atmosphere of hydrogen at 1 atm., for 6 hours. After removal of the palladium-carbon by filtration, the filtrate was concentrated to half in volume. The resultant residue was added under agitation to a saturated sodium hydrogencarbonate aqueous solution, followed by extraction with ethyl acetate. The resultant organic phase was washed with a saturated saline solution. After drying with anhydrous magnesium sulfate, the solvent was distilled off and the resultant residue was dissolved in 1 liter of N,N-dimethylformamide. 69 g of 60% sodium hydride was gently added to the solution under ice-cooling conditions, followed by agitation for further 20 minutes. 160 g of chloromethyl methyl ether was dropped in the resultant reaction solution so that the inner temperature did not exceed 20 C. After further agitation at room temperature for 30 minutes, the reaction solution was poured into iced water and extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate. The solvent was distilled off, followed by purification by silica gel column chromatography (hexane), thereby obtaining 259 g of the captioned compound as a light yellow oily substance.

reactant | 8-(1-hydroxyethyl)-1-naphthol | 270 g | OC(C)C=1C=CC=C2C=CC=C(C12)O | C12H12O2
reactant | trifluoroacetic acid | 357 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate | 2 liters | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | pyridine | 170 ml | N1=CC=CC=C1 | C5H5N
product | 7-ethyl-1-methoxymethoxynaphthalene | 259 g | C(C)C1=CC=C2C=CC=C(C2=C1)OCOC | C14H16O2
